US07700591B2
Methyl 2-fluoro-5-iodobenzoate (5.01 g, 17.9 mmol) was combined with LiCl (1.52 g, 35.7 mmol) and tert-butyl 4-(trimethylstannyl)-3,6-dihydropyridine-1(2H)-carboxylate (4.28 g, 12.3 mmol) in 100 mL of DMF. After stirring for 20 min under a nitrogen atmosphere, Pd2dba3 (218 mg, 0.238 mmol) and P(2-furyl)3 (276 mg, 1.19 mmol) were added and the reaction mixture was warmed to 90° C. under a nitrogen atmosphere and stirred for 1 h 45 min. The reaction mixture was then stirred at rt overnight. Then the reaction temperature was brought again to 90° C. for 1 h. To the mixture was added saturated NaHCO3 solution and brine. The resulting aqueous mixture was then extracted three times with ether. The ethereal layers were combined and washed four times with water, dried over anhydrous MgSO4, filtered, and concentrated. Purification by MPLC (silica, 5-25% gradient of ethyl actetate/hexanes, over 2L volume) gave tert-butyl 4-[4-fluoro-3-(methoxycarbonyl)phenyl]-3,6-dihydropyridine-1(2H)-carboxylate. 1H NMR (500 MHz, CDCl3) δ 7.94 (dd, J=7.0, 2.5 Hz, 1H), 7.53 (m, 1H), 7.13 (dd, J=10, 8.5 Hz, 1H), 6.07 (br s, 1H), 4.10 (br s, 2H), 3.96 (s, 3H), 3.66 (t, 6 Hz, 2H), 2.53 (br m, 2H), 1.52 (s, 9H). ESI-MS calc. for C18H22FNO4: 335; Found: 236 (M+Boc+H).

reactant | Methyl 2-fluoro-5-iodobenzoate | 17.9 mmol, 5.01 g | FC1=C(C(=O)OC)C=C(C=C1)I | C8H6FIO2
reactant | LiCl | 35.7 mmol, 1.52 g | [Li+].[Cl-]
reactant | tert-butyl 4-(trimethylstannyl)-3,6-dihydropyridine-1(2H)-carboxylate | 12.3 mmol, 4.28 g | C[Sn](C=1CCN(CC1)C(=O)OC(C)(C)C)(C)C
reactant | P(2-furyl)3 | 1.19 mmol, 276 mg | O1C(=CC=C1)P(C=1OC=CC1)C=1OC=CC1 | C12H9O3P
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | brine | [Cl-].[Na+].O
catalyst | Pd2dba3 | 0.238 mmol, 218 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | tert-butyl 4-[4-fluoro-3-(methoxycarbonyl)phenyl]-3,6-dihydropyridine-1(2H)-carboxylate | FC1=C(C=C(C=C1)C=1CCN(CC1)C(=O)OC(C)(C)C)C(=O)OC | C18H22FNO4
